US07465815B2
N-(3-(3-Formylphenyl)-3-hydroxy-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
To a solution of 2-(3-bromophenyl)-1,3-dioxolane (1.65 mL, 10.9 mmol) in THF (20 mL) was added dropwise at −78° C. under an argon atmosphere n-butyllithium (1.59 M hexane solution, 6.4 mL, 10.2 mmol), and the resulting mixture was stirred for 30 minutes. To the reaction solution was added dropwise at −78° C. a solution of 3,3-dimethyl-N-(2,2,6,7-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide (1.0 g, 3.30 mmol) obtained in Reference Example 65 in THF (10 mL), and the resulting mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature and stirred for 1 hour, and water was added to the reaction solution and the product was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:3) to obtain 1.38 g (yield: 92%) of N-(3-(3-(1,3-dioxolan-2-yl)phenyl)-3-hydroxy-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide as an amorphous powder. To a mixed solution of the obtained N-(3-(3-(1,3-dioxolan-2-yl)phenyl)-3-hydroxy-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide (300 mg, 0.66 mmol) in acetone (4 mL)-water (0.3 mL) was added pyridinium p-toluenesulfonate (5 mg, 0.03 mmol), and the mixture was stirred for 30 minutes. The reaction solution was cooled to room temperature, and water was added to the reaction solution and the product was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was recrystallized from THF-diisopropyl ether to obtain 194 mg (yield: 72%) of the title compound. Melting point: 189-190° C.

reactant | N-(3-(3-(1,3-dioxolan-2-yl)phenyl)-3-hydroxy-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | 0.66 mmol, 300 mg | O1C(OCC1)C=1C=C(C=CC1)C1(C(OC2=C1C=C(C(=C2C)C)NC(CC(C)(C)C)=O)(C)C)O | C27H35NO5
reactant | water | 0.3 mL | O | H2O
reactant | pyridinium p-toluenesulfonate | 0.03 mmol, 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | N-(3-(3-Formylphenyl)-3-hydroxy-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | 194 mg, yield: 72% | C(=O)C=1C=C(C=CC1)C1(C(OC2=C1C=C(C(=C2C)C)NC(CC(C)(C)C)=O)(C)C)O | C25H31NO4
